US07612067B2
Preparation of 3-(5-bromo-3,4-dimethyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a solution of 3-(3,4-dimethyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.41 g, 1.25 mmol) and CH2Cl2 (30 mL) is added NBS (0.23 g, 1.32 mmol). The solution is stirred for 1 hour, diluted with Et2O (100 mL), washed with water (3×100 mL), brine (100 mL), dried (MgSO4) filtered and concentrated to furnish the title compound (0.41 g, 1.01 mmol, 80%). 1H NMR (CDCl3) δ 0.86 (t, J=7.4 Hz, 6H), 1.72-1.94 (m, 4H), 2.02 (s, 3H), 2.18 (s, 3H), 2.43 (s, 3H), 2.49 (s, 3H), 3.27-3.36 (m, 1H), 6.67 (s, 1H). LC/MS (m/z): calcd. for C19H24BrN3S (M+H)+: 407.4; found: 407.3.

reactant | 3-(3,4-dimethyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.25 mmol, 0.41 g | CC1=C(SC=C1C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C19H25N3S
reactant | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
reactant | NBS | 1.32 mmol, 0.23 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 3-(5-bromo-3,4-dimethyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.01 mmol, 0.41 g, 80% | BrC1=C(C(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C)C | C19H24BrN3S
